US09428511B2
To a solution of (3R,4R)-3-ethyl-N—((S)-1-phenylethyl)piperidin-4-amine (443 mg, 1.906 mmol) in dichloromethane (6.4 ml) were added diisopropylethylamine (832 μl, 4.77 mmol) and di-tert-butyl dicarbonate (664 μl, 2.86 mmol). The reaction was stirred at room temperature for 2 hrs. After removal of the solvent, the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried with sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified via medium pressure chromatography (silica gel column, EtOAc/hexanes eluent, 0-100% gradient elution) to yield (3R,4R)-tert-butyl 3-ethyl-4-(((S)-1-phenylethyl)amino)piperidine-1-carboxylate (430.5 mg, 1.295 mmol, 67.9% yield) as a white solid. LCMS (Method E) m/z 333.3 ([M+H]+).

reactant | (3R,4R)-3-ethyl-N—((S)-1-phenylethyl)piperidin-4-amine | 1.906 mmol, 443 mg | C(C)[C@@H]1CNCC[C@H]1N[C@@H](C)C1=CC=CC=C1 | C15H24N2
reactant | diisopropylethylamine | 4.77 mmol, 832 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 2.86 mmol, 664 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 6.4 ml | ClCCl | CH2Cl2
product | (3R,4R)-tert-butyl 3-ethyl-4-(((S)-1-phenylethyl)amino)piperidine-1-carboxylate | 1.295 mmol, 430.5 mg, 67.9% yield | C(C)[C@@H]1CN(CC[C@H]1N[C@@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C | C20H32N2O2
